US08871738B2
A solution of [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.368 g, 0.451 mmol), potassium acetate (1.34 g, 13.6 mmol), bis(pinacolato)diboron (1.4 g, 5.50 mmol) and methyl 5-(3-iodo-4-methoxyphenyl)-4-methylpyridine-2-carboxylate (1.73 g, 4.51 mmol) in DMSO (20 mL) was heated at 80° C. for 80 minutes. The mixture was cooled to room temperature and was poured into ethyl acetate and water. The organic was washed with brine, dried over sodium sulfate, filtered and concentrated. The crude oil was purified by column chromatography to yield methyl 5-[4-methoxy-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-methylpyridine-2-carboxylate (1.73 g, 4.51 mmol). MS ESI calc'd. for C21H26BNO5 [M+H]+ 384.2. found 384.2.

reactant | potassium acetate | 13.6 mmol, 1.34 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 5.50 mmol, 1.4 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | methyl 5-(3-iodo-4-methoxyphenyl)-4-methylpyridine-2-carboxylate | 4.51 mmol, 1.73 g | IC=1C=C(C=CC1OC)C=1C(=CC(=NC1)C(=O)OC)C | C15H14INO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.451 mmol, 0.368 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | O | H2O
product | methyl 5-[4-methoxy-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-methylpyridine-2-carboxylate | 4.51 mmol, 1.73 g | COC1=C(C=C(C=C1)C=1C(=CC(=NC1)C(=O)OC)C)B1OC(C(O1)(C)C)(C)C | C21H26BNO5
